US08110687B2
A solution of tert-butyl {6-[(2-cyanopyridin-4-yl)oxy]-3,4-dihydro-2-H-chromen-3-yl}carbamate in 2M HCl in dioxane (8 mL) was allowed to stir at rt overnight. The reaction mixture was concentrated and the residue was purified by column chromatography to give 4-[(3-amino-3,4-dihydro-2H-chromen-6-yl)oxy]pyridine-2-carbonitrile (0.17 g, 12%).

reactant | tert-butyl {6-[(2-cyanopyridin-4-yl)oxy]-3,4-dihydro-2-H-chromen-3-yl}carbamate | C(#N)C1=NC=CC(=C1)OC=1C=C2CC(COC2=CC1)NC(OC(C)(C)C)=O | C20H21N3O4
solvent | HCl | 2M | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 4-[(3-amino-3,4-dihydro-2H-chromen-6-yl)oxy]pyridine-2-carbonitrile | 0.17 g, 12% | NC1COC2=CC=C(C=C2C1)OC1=CC(=NC=C1)C#N | C15H13N3O2
